US06335463B1
1-(4-fluorophenyl)-5-chloroindole
1-(4-flourophenyl)-3-acetoxy-5-chloroindole (100.0 g, 0.33 mol) was dissolved in 1000 mL EtOH. During the next hour sodium borohydride pellets (18.7 g, 1.5 eq.) were added batchwise at reflux. The reaction mixture was stirred over night at reflux and cooled to room temperature. Concentrated HCl (appr. 50 mL until pH 1) was added and the reaction mixture was stirred at room temperature for 1 hour. 200 mL demineralized water was added, and the resulting suspension was filtrated. The filter cake was washed with further 50 mL water and 10 mL EtOH. The product was dried over night in vacuum at 50° C.

reactant | 1-(4-flourophenyl)-3-acetoxy-5-chloroindole | 0.33 mol, 100.0 g | FC1=CC=C(C=C1)N1C=C(C2=CC(=CC=C12)Cl)OC(C)=O | C16H11ClFNO2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | HCl | 50 mL, pH 1 | Cl | ClH
reactant | water | O | H2O
solvent | EtOH | 1000 mL | CCO | C2H6O
product | 1-(4-fluorophenyl)-5-chloroindole | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)Cl | C14H9ClFN
